US06706698B2
Imidazole (7.08 g, 104 mmol) was added portionwise to a well stirred mixture of diethyl (4-hydroxy-3-methoxy-5-methylbenzyl)phosphonate (10 g, 35 mmol) and t-butyldimethylsilyl chloride (7.84 g, 52 mmol) in 25 ml DMF and stirring was continued for 16 h at room temperature. The mixture was poured into water kept at 0° C. to which was added a 25% ammonium hydroxide solution until pH 7 was reached. The aqueous phase was extracted with chloroform, the organic phase was dried over MgSO4. Evaporation of the solvent gave 14 g (100%) of diethyl (4-t-butyldimethylsilyloxy-3-methoxy-5-methylbenzyl)phosphonate as a dark oil.

reactant | Imidazole | 104 mmol, 7.08 g | N1C=NC=C1 | C3H4N2
reactant | diethyl (4-hydroxy-3-methoxy-5-methylbenzyl)phosphonate | 35 mmol, 10 g | OC1=C(C=C(CP(OCC)(OCC)=O)C=C1C)OC | C13H21O5P
reactant | t-butyldimethylsilyl chloride | 52 mmol, 7.84 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | diethyl (4-t-butyldimethylsilyloxy-3-methoxy-5-methylbenzyl)phosphonate | 14 g, 100% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(CP(OCC)(OCC)=O)C=C1C)OC | C19H35O5PSi
